US04737313
A mixture of 3'-bromo-4'-(2-methylbutyloxy)-4-p-toluenesulfonylbiphenyl (40 g) prepared in the above step (iii), a 50% aqueous solution (20 g) of NaOH and ethanol (350 ml) was heated under reflux for 4 hours, followed by distilling off ethanol, adding toluene, further adding 6N hydrochloric acid, separating the resulting liquid layer, washing with water to make the solution neutral, drying and distilling off toluene to obtain a raw product of oily 3'-bromo-4'-(2-methylbutyloxy)-4-hydroxybiphenyl, which was then dissolved in pyridine (200 ml), followed by adding benzoyl chloride (20 g), heating the mixture on a water bath, allowing to stand overnight, adding toluene, washing with 6N hydrochloric acid, washing with water, further washing with an aqueous solution of 2N NaOH, washing with water to make the solution neutral, drying and distilling off toluene to obtain 3'-bromo-4'-(2-methylbutyloxy)-4-biphenylylbenzoate (25 g). M.p.: 93.6° C.

reactant | 3'-bromo-4'-(2-methylbutyloxy)-4-p-toluenesulfonylbiphenyl | 40 g | BrC=1C=C(C=CC1OCC(CC)C)C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)C | C24H25BrO3S
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 3'-bromo-4'-(2-methylbutyloxy)-4-hydroxybiphenyl | BrC=1C=C(C=CC1OCC(CC)C)C1=CC=C(C=C1)O | C17H19BrO2
